Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Alcohol intoxication
 
Major Surgical or Invasive Procedure:
Intubation ___
Extubation ___ 
 
History of Present Illness:
Mr. ___ is a ___ y/o ___ vet with past medical history 
of chronic homelessness, depression, chronic poly-substance use 
(alcohol and cocaine), alcohol withdrawal, multiple ED visits 
for alcohol intoxication, reported recurrent suicidality while 
intoxicated, multiple incarcerations, who presented with alcohol 
intoxication, found to be increasingly somnolent ___ ED requiring 
intubation for air protection.

Patient had been ___ the ED waiting room for intoxication. He was 
seen the previous night for the same complaint. Patient was 
noted to have increased somnolence and appeared to have airway 
compromise ___ triage zone, so a trigger was called and patient 
was brought to the red zone. On arrival, patient was not 
arousable, did not have a gag patient, and was not protecting 
his airway. Narcan was given with no effect. He was subsequently 
intubated for airway protection. Patient was initially sedated 
with propofol then transitioned to midaz due to soft pressures 
on propofol. 

___ the ED, He underwent a CXR and CT head  

Upon arrival to the ICU, patient was intubated and sedated. His 
drips were fentanyl and midaz. Vital signs were   
   
Review of systems could not be obtained. 
 
Past Medical History:
Per records:
Chronic homelessness, depression, chronic poly-substance use 
(alcohol and cocaine), alcohol withdrawal, multiple ED visits 
for alcohol intoxication, reported recurrent suicidality while 
intoxicated, multiple incarcerations
 
Social History:
___
Family History:
Unknown, could not be obtained

 
Physical Exam:
ADMISSION PHYSICAL EXAM:
GENERAL: Intubated, sedated
HEENT: Sclera anicteric, MMM, oropharynx clear, pupils equal and 
reactive to light  
NECK: Supple, JVP could not be assessed, no LAD  
LUNGS: Clear to auscultation anteriorly, no wheezes, rales, 
rhonchi  
CV: Regular rate and rhythm, normal S1 S2, no murmurs, rubs, 
gallops  
ABD: Soft, non-tender, non-distended, bowel sounds present, no 
rebound tenderness or guarding, no organomegaly  
EXT: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
SKIN:  Multiple skin scratches ___ the legs
NEURO: Sedated, could not be assessed
 
DISCHARGE PHYSICAL EXAM:
VS: 98 116/78 (110s-150s/70s-90s) 77 (70s-100s) 18 97% RA
General: WNWD male ___ NAD
HEENT: anicteric sclera, PERRL, EOMI, MOM, OP clear
Neck: supple, non-tender, no LAD, no JVD
CV: RRR, normal S1/S2, no M/R/G
Lungs: NLB on RA, CTAB
Abdomen: soft, tenderness to deep palpation RUQ, no rebound 
guarding, enlarged liver span without appreciable splenomegaly, 
NABS
GU: no Foley
Ext: WWP, no cyanosis or edema
Neuro: A&O, mood stable, face symmetric, occasional oral 
automatisms, SILT, MAE, no asterixis
Skin: warm, dry, no rashes
 
 
Pertinent Results:
ADMISSION LABS:
___ 09:30PM BLOOD WBC-6.7 RBC-4.53* Hgb-14.4 Hct-39.9* 
MCV-88 MCH-31.8 MCHC-36.1 RDW-13.7 RDWSD-43.6 Plt ___
___ 03:21PM BLOOD Neuts-87* Bands-0 Lymphs-9* Monos-3* 
Eos-0 Baso-1 ___ Myelos-0 AbsNeut-10.79* 
AbsLymp-1.12* AbsMono-0.37 AbsEos-0.00* AbsBaso-0.12*
___ 03:21PM BLOOD Hypochr-NORMAL Anisocy-NORMAL 
Poiklo-NORMAL Macrocy-NORMAL Microcy-NORMAL Polychr-NORMAL
___ 09:30PM BLOOD ___ PTT-29.0 ___
___ 09:30PM BLOOD Glucose-90 UreaN-18 Creat-0.9 Na-144 
K-3.7 Cl-100 HCO3-15* AnGap-33*
___ 09:30PM BLOOD ALT-34 AST-76* LD(LDH)-292* AlkPhos-89 
TotBili-0.6
___ 09:30PM BLOOD Lipase-34
___ 09:30PM BLOOD Albumin-4.7 Calcium-8.7 Phos-3.8 Mg-2.1
___ 09:30PM BLOOD ASA-NEG ___ Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG
___ 09:40PM BLOOD Glucose-79 Lactate-5.0* Na-147* K-3.6 
Cl-105 calHCO3-20*
___ 09:40PM BLOOD freeCa-0.99*
 
PERTINENT INTERVAL LABS:
___ 01:21AM BLOOD CK-MB-6 cTropnT-<0.01
___ 09:30PM BLOOD Lipase-34
___ 01:21AM BLOOD Lipase-24
___ 07:45AM BLOOD Lipase-35
___ 01:21AM BLOOD CK-MB-6 cTropnT-<0.01
___ 01:31PM BLOOD HIV Ab-Negative
___ 01:53AM BLOOD Lactate-3.4*
___ 01:30PM BLOOD Lactate-2.5*
___ 08:43AM URINE Color-Yellow Appear-Hazy Sp ___
___ 08:43AM URINE Blood-LG Nitrite-NEG Protein-30 
Glucose-NEG Ketone-40 Bilirub-NEG Urobiln-4* pH-6.5 Leuks-NEG
 
IMAGING/STUDIES:
 
CXR ___
Endotracheal tube terminates 3.6 cm above the carina.  Enteric 
tubecourses below the diaphragm, out of the field of view. 
Streaky right base opacity, worrisome for pneumonia or 
aspiration versus atelectasis given adjacent mild elevation the 
right hemidiaphragm. 
 
CT HEAD ___
No acute intracranial process.
 
CXR ___
ET tube tip is 6 cm above the carinal.  NG tube tip is ___ the 
proximal stomach but the side hole is at the gastroesophageal 
junction or above and should be advanced.   
Left retrocardiac opacity is re- demonstrated concerning for 
infection.  No appreciable pleural effusion or pneumothorax. 
 
RUQ U/S ___
IMPRESSION:  
1. No concerning liver lesion identified. 
2. Cholelithiasis. 
3. Small simple left renal cyst incidentally noted. 
 
MICROBIOLOGY:
___ 6:09 pm SPUTUM      Source: Endotracheal. 
 
                            **FINAL REPORT ___
 
   GRAM STAIN (Final ___: 
      ___ PMNs and <10 epithelial cells/100X field. 
      4+   (>10 per 1000X FIELD):   GRAM POSITIVE COCCI. 
                                    ___ PAIRS AND CHAINS. 
      1+    (<1 per 1000X FIELD):   GRAM POSITIVE ROD(S). 
      1+    (<1 per 1000X FIELD):   GRAM NEGATIVE ROD(S). 
 
   RESPIRATORY CULTURE (Final ___: 
      SPARSE GROWTH Commensal Respiratory Flora. 
      STREPTOCOCCUS PNEUMONIAE.    SPARSE GROWTH. 
         PRESUMPTIVELY PENICILLIN SENSITIVE BY OXACILLIN SCREEN. 

      STAPH AUREUS COAG +.    RARE GROWTH OF TWO COLONIAL 
MORPHOLOGIES. 
         Oxacillin RESISTANT Staphylococci MUST be reported as 
also
         RESISTANT to other penicillins, cephalosporins, 
carbacephems,
         carbapenems, and beta-lactamase inhibitor combinations. 

         Rifampin should not be used alone for therapy. 
         Staphylococcus species may develop resistance during 
prolonged
         therapy with quinolones.   Therefore, isolates that are 
initially
         susceptible may become resistant within three to four 
Therefore,
         isolates that are initially susceptible may become 
resistant
         within three to four. 
 
                              SENSITIVITIES: MIC expressed ___ 
MCG/ML
                      
_________________________________________________________
                             STREPTOCOCCUS PNEUMONIAE
                             |          STAPH AUREUS COAG +
                             |          |   
CLINDAMYCIN-----------           <=0.25 S
ERYTHROMYCIN----------              =>8 R
GENTAMICIN------------            <=0.5 S
LEVOFLOXACIN----------             0.25 S
OXACILLIN-------------              =>4 R
PENICILLIN G----------       S
RIFAMPIN--------------            <=0.5 S
TETRACYCLINE----------              <=1 S
TRIMETHOPRIM/SULFA----            <=0.5 S
VANCOMYCIN------------                1 S
  
___ 8:43 am URINE      Source: Catheter. 
 
                            **FINAL REPORT ___
 
   URINE CULTURE (Final ___: 
      STAPHYLOCOCCUS, COAGULASE NEGATIVE.    10,000-100,000 
ORGANISMS/ML.. 
  
___ BLOOD CULTURE: pending
___ BLOOD CULTURE: pending
___ SPUTUM CULTURE: Strep and MRSA (levo sensitive)
___ SPUTUM CULTURE: as above
___ URINE CULTURE: STAPHYLOCOCCUS, COAGULASE NEG. 10K-100K 
ORGANISMS/ML
___ C.diff: NEGATIVE
 
DISCHARGE LABS:
___ 07:00AM BLOOD WBC-4.5 RBC-4.20* Hgb-13.1* Hct-36.7* 
MCV-87 MCH-31.2 MCHC-35.7 RDW-13.2 RDWSD-41.7 Plt ___
___ 07:00AM BLOOD Glucose-80 UreaN-9 Creat-0.8 Na-138 K-3.4 
Cl-102 HCO3-23 AnGap-16
___ 07:00AM BLOOD Calcium-8.9 Phos-4.7* Mg-1.8
 
 
Brief Hospital Course:
Summary:
___ ___ Army veteran with PMHx of chronic homelessness, 
depression, chronic poly-substance use (alcohol, crack/cocaine, 
marijuana/K2), alcohol withdrawal, multiple ED visits for 
alcohol intoxication, reported recurrent suicidality while 
intoxicated, multiple incarcerations, who presented with alcohol 
intoxication, found to be increasingly somnolent ___ ED requiring 
intubation for air protection, now extubated and transitioned to 
medical floor. Patient did well on phenobarbital taper, 
completed protocol through ___ step of downtitration (IV loading 
dose then 36mg BID x 2 days, 18mg BID x 2 days, 8mg BID x 2 
days). Patient diagnosed with aspiration PNA, sputum cultures 
grew community acquired MRSA and Strep PNA. Patient should 
complete planned 10 day course of levofloxacin 750mg QD through 
___ and doxycycline 100mg BID ___. Symptoms improving prior to 
discharge. Patient developed RUQ tenderness and diarrhea while 
admitted, worse when eating. C.diff was negative, HIV negative, 
LFTs were normal, cholelithiasis noted on U/S with no evidence 
of cholecystitis. Symptoms improved with Creon tabs with meals. 
Patient's previously prescribed psychiatric regimen was 
restarted and patient discharged with fluoxetine 40mg QAM, 
risperidone 6mg QHS, trazodone 200mg QHS PRN. Patient discharged 
with plan to go to ___ after bedside delivery 
of one month of medication (except antibiotics as noted) and 
will re-present to ___ on ___. PCP and psychiatric follow 
up were encouraged.
 
# Alcohol withdrawal: Patient with chronic alcohol abuse and 
multiple ED admissions for alcohol intoxications. Per records 
reviews, he has history of alcohol withdrawal. Endorses history 
of withdrawal seizures. Serum ethanol level on presentation was 
538. The patient demonstrated signs and symptoms of alcohol 
withdrawal after extubation and removal of sedation. He was 
started on a phenobarbital taper and has responded well. Started 
on high dose thiamine for 3 days with transition to 100mg QD, 
multivitamins and folic acid. Social work was consulted and 
coordinated resources and housing options. 
 
# MRSA and Strep Pneumonia: Retrocardiac infiltrate on CXR, 
initially not treated given lack of infectious symptoms. 
Developed cough after extubation, spiked fevers on ___ and 
developed a leukocytosis on ___. He was started on levofloxacin 
for presumed CAP. Strep and MRSA on sputum culture. Patient 
should complete planned 10 day course of levofloxacin 750mg QD 
through ___ and doxycycline 100mg BID ___. Symptoms improving 
prior to discharge.
  
# Diarrhea: large volume liquid stools reported, C.diff 
negative. No leukocytosis, fevers, cramping, reported bleeding 
or melena. Has RUQ tenderness with cholelithiasis without 
evidence of cholecystitis, LFTs and lipase WNL. Denies IVDU 
history. HIV negative. RUQ U/S without evidence of cirrhosis, 
focal lesions, cholecystitis. Symptoms improved with trial of 
Creon. 
 
# Depression / Hx suicide attempt: Patient has outpatient 
Psychiatrist and treated at ___, reports long term use of 
fluoxetine, risperidone, and takes trazodone 200mg QHS for 
insomnia. Mood was stable and no suicidality. Per ___ records: 
active Rx for fluoxetine and risperidone by Dr. ___ 
(Psych). Restarted on fluoxetine 40mg QAM and risperidone 6mg 
QHS prior to discharge. 
 
# Altered mental status: Resolved. Patient was noted to have 
increased somnolence ___ context of polysubstance abuse. Tox 
screen was positive for cocaine, alcohol, benzo. CT head showed 
no acute intracranial abnormality. ABG ___ the ED was notable for 
normal O2, but Co2 was not measured; repeat ABG ___ MICU was 
within normal limits. Most likely etiology is ethanol 
intoxication. Infection may also have contributed to 
presentation.  
 
# Elevated lactate: Lactate was found to be 5 on admission. 
Patient was hemodynamically stable and not requiring any 
pressors. There is no evidence of ischemic (extremities were 
warm, no tenderness upon palpation of abdomen). Elevated lactate 
was thought to be secondary to thiamine deficiency. The patient 
was treated with high dose thiamine and IVF with improvement ___ 
lactate. 
 
 
TRANSITIONAL ISSUES
===================
- Patient should complete 10 day course of levofloxacin 750mg QD 
through ___ and doxycycline 100mg BID ___
- Patient restarted on previously prescribed fluoxetine 40mg QAM 
and risperidone 6mg QHS and PRN trazodone 200mg QHS for insomnia
- Patient started on Creon tabs TID AC for presumed chronic 
pancreatic insufficiency given good response of diarrheal 
symptoms
- CODE: Full (confirmed) 
- CONTACT: ___ (sister) ___
 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. TraZODone 200 mg PO QHS:PRN insomnia 
2. FLUoxetine 40 mg PO DAILY 
3. Aspirin 81 mg PO DAILY 
4. Vitamin D 1000 UNIT PO DAILY 
5. Multivitamins 1 TAB PO DAILY 

 
Discharge Medications:
1. FLUoxetine 40 mg PO DAILY 
RX *fluoxetine 40 mg 1 capsule(s) by mouth QAM Disp #*30 Capsule 
Refills:*0
2. Multivitamins 1 TAB PO DAILY 
RX *multivitamin  1 tablet(s) by mouth once a day Disp #*30 
Tablet Refills:*0
3. RisperiDONE 6 mg PO QHS 
RX *risperidone 3 mg 2 tablet(s) by mouth at bedtime Disp #*60 
Tablet Refills:*0
4. Aspirin 81 mg PO DAILY 
RX *aspirin 81 mg 1 tablet(s) by mouth once a day Disp #*30 
Tablet Refills:*0
5. TraZODone 200 mg PO QHS:PRN insomnia 
RX *trazodone 100 mg 2 tablet(s) by mouth at bedtime Disp #*30 
Tablet Refills:*0
6. Vitamin D 1000 UNIT PO DAILY 
RX *ergocalciferol (vitamin D2) 2,000 unit 0.5 (One half) 
tablet(s) by mouth once a day Disp #*30 Tablet Refills:*0
7. Creon 12 2 CAP PO TID W/MEALS 
RX *lipase-protease-amylase [Creon] 12,000 unit-38,000 
unit-60,000 unit 2 capsule(s) by mouth TIDAC Disp #*180 Capsule 
Refills:*0
8. Doxycycline Hyclate 100 mg PO Q12H 
RX *doxycycline hyclate 100 mg 1 tablet(s) by mouth twice a day 
Disp #*18 Tablet Refills:*0
9. FoLIC Acid 1 mg PO DAILY 
RX *folic acid 1 mg 1 tablet(s) by mouth once a day Disp #*30 
Tablet Refills:*0
10. Levofloxacin 750 mg PO Q24H 
RX *levofloxacin 750 mg 1 tablet(s) by mouth once a day Disp #*5 
Tablet Refills:*0
11. Thiamine 100 mg PO DAILY 
RX *thiamine HCl (vitamin B1) 100 mg 1 tablet(s) by mouth once a 
day Disp #*30 Tablet Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
# MRSA and Strep Pneumonia 
# Alcohol withdrawal 
# Diarrhea 
# Depression / Hx suicide attempt
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
Dear Mr. ___,

You were admitted for alcohol intoxication and withdrawal. You 
requires ICU care with intubation (a tube ___ your throat) to 
protect you from throwing up and breathing it into your lungs. 
You did not have a seizure. You are doing well with an oral 
phenobarbital regimen. 

**IT IS VERY IMPORTANT YOU STOP DRINKING ALCOHOL** Keep seeking 
help ___ maintain sobriety
 
You also were found to have a pneumonia (infection ___ your 
lungs) and diarrhea.

You are being sent home with oral antibiotics that you should 
take every day until you finish the prescription, even if you 
feel better before then. 

You also had a lot of diarrhea that was improved before 
discharge. You should take the Creon pills (contain enzymes from 
your pancreas) with each meal to help you avoid the pain and 
diarrhea you described that got worse with eating.
 
Finally, we restarted your Prozac and Risperdal that had been 
prescribed to you earlier ___ the year by Dr. ___. 

Please follow up with your primary care physician and with Dr. 
___. 

If you get worsening fevers, chills, cough, abdominal pain, 
diarrhea, bloody stools or seizures, contact your doctor or 
return to the hospital immediately. 

We wish you the best ___ health,

Your ___ team

 
Followup Instructions:
___